US04234588
A mixture of ethyl 3-(6-methoxy-3-pyridyl)propionate (32.74 g) and ethyl formate (17.22 g) was added dropwise over 1.5 hours to a stirred suspension of sodium hydride in oil (50%. 9.38 g) in 1,2-dimethoxyethane (50 ml) cooled to -2°, allowed to stand overnight at room temperature and was poured on to ice. The mixture was extracted with ether (discarded), and the aqueous phase was adjusted to pH 5 with 2 N sulphuric acid. An oil was precipitated and crystallised on standing to give ethyl 2-formyl-3-(6-methoxy-3-pyridyl)propionate (25.9 g, 70%) m.p. 91.5°-94°. A sample recrystallised from aqueous ethanol had m.p. 93°-94°.

reactant | ethyl 3-(6-methoxy-3-pyridyl)propionate | 32.74 g | COC1=CC=C(C=N1)CCC(=O)OCC | C11H15NO3
reactant | ethyl formate | 17.22 g | C(=O)OCC | C3H6O2
reactant | sodium hydride | [H-].[Na+]
solvent | 1,2-dimethoxyethane | 50 ml | COCCOC | C4H10O2
product | ethyl 2-formyl-3-(6-methoxy-3-pyridyl)propionate | 25.9 g, 70% | C(=O)C(C(=O)OCC)CC=1C=NC(=CC1)OC | C12H15NO4
